data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4624,"C=[O+][Si:1](C)(C)C.[I-:2]|(2, 1)"
train,pmechdb_split_0,0,5138,"C=C1CC23CC1C(=[O:1])CC2C1(C)CCCC(C)(C(=O)OC)C1C3C(=O)OC.CC(C)O.CC(C)[O][Al:2]([O]C(C)C)[O]C(C)C|(1, 2)"
train,pmechdb_split_0,0,7027,"CC(=O)[O-:1].CC1(C)CC2C=CC1[C+:2]2C.CC1=CC=C(S(=O)(=O)[O-])C=C1|(1, 2)"
train,pmechdb_split_0,0,9359,"CCOC(=O)CC1([O-:1])NNC(=S)N1.CC[O:2][H:3].[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3075,"CC(C)CC1CC[CH2:1][C:2]([CH2:3][N+:4]#N)([OH:5])C1.O.[Cl-]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4443,"OCC[S+:1]1C[CH2:2]1.[Cl-].[OH2:3].[OH3+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,109,"CC(=O)CC[C:1](C#N)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6922,"C#C[C+:1]1C=CC=C[C:2]1([N+](=O)[O-])[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8404,"O=C(O)C1=CC=CC=C1N=N[OH:1].[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7965,"C[C:1](C)([O:2]C)[I:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5823,"CO[C:1](OC)=[OH+:2].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2026,"CC[C:1]1(C)C(C)[OH+:2]1.CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5399,"CC=NO[C:1](C)([O-:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7748,"COC1=CC=C(C(C2=CC=CC=C2)(C2=CC=C(OC)C=C2)[O:1]CC2OCCC2OC(=O)CN)C=C1.O=C(C(Cl)(Cl)Cl)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5303,"CC1=CC=C(S(=O)(=O)[O-])C=C1.C[O+:1]=[C:2]1C=C[C:3]2(C[CH2:4]2)[CH:5]=[CH:6]1.OC=[O:7]|(7, 4);((4, 3), 5);((5, 6), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3612,"CO[C:1](=[O:2])[CH:3]=[CH:4][CH2-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9674,"CC(C)(C)[O-:1].COC1=C2OC3C45CCNC(CC(=C24)C=C1)C5[CH:2]([H:3])[CH:4]([Br:5])C3(OC)OC.CS(C)=O.[K+]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9518,"C[CH:1]([O-:2])[O:3]S(=O)(=O)C(F)(F)F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3512,"COC=[O:1].[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,3283,"COP(=O)(OC)[CH2:1][H:2].[H:3][K:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5003,"CCO.CC[N+:1](CC)(CC)[H:2].COC1=CC=C(C(=O)C2=C3NCCCN3C3=C(C4=C(C)NC5=C4C=CC=C5)C=C([O-:3])C=C23)C=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4019,"CC(C)C[CH:1](CC1CCCCC1)[O+:2]1CCOCC1.O=S(O)Cl.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5541,"[CH2+:1][NH-:2]|(2, 1)"
train,pmechdb_split_0,0,5627,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C=CC=C(C(Cl)(Cl)Cl)[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,3688,"C1=CC=[NH+]C=C1.CCOC(=O)[CH:1]=[C:2](CC1=CC(=O)OC(C)(C)O1)[O-:3].Cl[C:4](CCC1=CC=CC=C1)=[O:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9503,"OCC[S:1]C[CH2:2][Cl:3].[Cl-].[OH3+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7048,"CC(C)CC(C1=CC=CC=C1)=[O:1].CCCC[O-].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,78,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C2=C(C=C[CH+:4]1)C=C(S(=O)(=O)O)C=C2|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,9131,"N#C[C:1]1([Cl:2])CCC[C:3]([O-:4])=[CH:5]1|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1331,"CCC(C(C)Br)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1594,"CC(C)[N](C(C)C)[Li:1].O=S(=O)(C(F)(F)F)[O:2]C1=CC=CC=C1|(2, 1)"
train,pmechdb_split_0,0,6771,"O=[N+:1]=[O:2].O=[N+]([O-])C1=C2C=C[CH:3]=[CH:4]C2=CC=C1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2427,"CC(C)=[O+:1][H:2].C[Si](C)(C)C=[C:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3763,"CC1CCC([OH+:1][H:2])CCC(C)O1.O=S(=O)(CCl)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5871,"CO.COC(=O)CC[C:1]1=[C:2](C)[NH:3][CH:4]=[C:5]1C.CO[CH:6]=[O+:7]C.O=C([O-])C(F)(F)F|(3, 2);((2, 1), 5);((5, 4), 6);((6, 7), 7)"
train,pmechdb_split_0,0,8474,"CC#[C-:1].CC(=O)O[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8335,"C[C:1]1=[CH:2]OC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5485,"CCC(=O)O[C+:1]1C(Br)=CC(Br)=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1926,"CC(C(COCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)[CH2:1][I:2].CC(C)NC(C)C.[Li][O]C(C1=CC=CC=C1)C(C)N(C)[C:3](=[CH:4]C)[O:5][Li-][NH+](C(C)C)C(C)C|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1084,"CCCCCCC#CC1([O][K-:1][OH+:2]C(C)(C)C)CCCCC1|((1, 2), 2)"
train,pmechdb_split_0,0,8767,"CS[CH+:1][N-:2]C|(2, 1)"
train,pmechdb_split_0,0,4796,"CC(C)(O[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)C1CCCC2=C(C=CC=C2)C1=O.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,557,"O=C(C=C(O)CC1=CC=CC=C1)[O:1][H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6747,"C1CC1CN=N[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9747,"CC=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1132,"CCC([O-])([N+]1=CN(C)C=C1)[NH+:1](CC)[H:2].CC[NH2:3].O=[N+]([O-])C1=CC=C([O-])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2718,"CC1CC(=NOC(=O)C(F)(F)F)C2(C)C3=CCC4CC(O)CCC4(C)C3CCC12C.CC1CC(=N[OH+:1][H:2])C2(C)C3=CCC4CC(O)CCC4(C)C3CCC12C.O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
